US04895950
6.3 g (36 mmol) of 5-chloro-6-amino-nicotinic acid are heated under reflux in 60 ml of thionyl chloride for 4 hours. After the volatile constituents have been distilled off, 50 ml of toluene are added to the residue and the mixture is evaporated. 6.9 g of 5-chloro-6-amino-nicotinoyl chloride are obtained as crystals of melting point: >250° C.

reactant | 5-chloro-6-amino-nicotinic acid | 36 mmol, 6.3 g | ClC=1C(=NC=C(C(=O)O)C1)N | C6H5ClN2O2
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-6-amino-nicotinoyl chloride | 6.9 g | ClC=1C(=NC=C(C(=O)Cl)C1)N | C6H4Cl2N2O
